US08703761B2
D. 1-Methyl-cyclopropanecarboxylic acid {1-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-amide
A mixture of 2-Amino-N-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-yl]-2-methyl-propionamide (150 mg, 0.400 mmol), 1-methylcyclopropyl carboxylic acid (80 mg, 0.80 mmol), triethylamine (140 uL, 1.00 mmol) and HBTU (300 mg, 0.809 mmol) was stirred at RT for 18 h, partitioned between ethyl acetate and, sequentially, 3 M HCl and aqueous KOH. The organic extract was dried over MgSO4, concentrated and purified by HPLC to give the title compound. m/z 458.3 (MH+). 1H NMR (CDCl3) δ 7.91 (dd, J=8, 4 Hz, 2H), 7.16 (t, J=8 Hz, 2H), 6.04 (br s, 1H), 1.63 (s, 6H), 1.38 (s, 3H), 1.30-1.25 (m, 2H), 0.70-0.65 (m, 2H), retention time 1.42 min (method A).

reactant | 2-Amino-N-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-yl]-2-methyl-propionamide | 0.400 mmol, 150 mg | NC(C(=O)NC=1SC(=C(N1)C(F)(F)F)C(C1=CC=C(C=C1)F)=O)(C)C | C15H13F4N3O2S
reactant | 1-methylcyclopropyl carboxylic acid | 0.80 mmol, 80 mg | CC1(CC1)C(=O)O | C5H8O2
reactant | triethylamine | 1.00 mmol, 140 uL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.809 mmol, 300 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
product | 1-Methyl-cyclopropanecarboxylic acid {1-[5-(4-fluoro-benzoyl)-4-trifluoromethyl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-amide | FC1=CC=C(C(=O)C2=C(N=C(S2)NC(=O)C(C)(C)NC(=O)C2(CC2)C)C(F)(F)F)C=C1 | C20H19F4N3O3S
